US05041454
A mixture of 6.3 parts of 1-(3-chloropropyl)-3-ethyl-2-imidazolidinone, 4.76 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 2.3 parts of sodium carbonate, 0.1 parts of potassium iode and 90 parts of N,N-dimethylacetamide was stirred over weekend at 70° C. After cooling, the reaction mixture was evaporated. The residue was taken up in dichloromethane and water. The organic layer was separated, washed twice with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile and a few drops of water at 0° C. The product was filtered off and dried in vacuo at 40° C., yielding 2.83 parts (36.6%) of cis-4-amino-5-chloro-N-[1-[3-(3-ethyl-2-oxo-1-imidazolidinyl)propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide; mp. 112.9° C. (compound 12).

reactant | 1-(3-chloropropyl)-3-ethyl-2-imidazolidinone | ClCCCN1C(N(CC1)CC)=O | C8H15ClN2O
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium | [K] | K
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | cis-4-amino-5-chloro-N-[1-[3-(3-ethyl-2-oxo-1-imidazolidinyl)propyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | 36.6% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCN2C(N(CC2)CC)=O)OC)C=C1Cl)OC | C22H34ClN5O4
